US09334269B2
To a roundbottom flask charged with 3-fluoro-N-methyl-5-nitrobenzamide (961 mg, 4.85 mmol) was added EtOH (16 mL). The resulting suspension was thoroughly purged with nitrogen prior to the addition of 10% Pd/C (43 mg, 0.485 mmol). The reaction mixture was purged with H2 (g), then stirred under 1 atm. H2 balloon at RT. After 2 d, the reaction mixture was filtered through Celite® (diatomaceous earth) with the aid of EtOH and the filtrate was dried under reduced pressure to afford 3-amino-5-fluoro-N-methylbenzamide (825 mg, 4.91 mmol, 100%).

reactant | 3-fluoro-N-methyl-5-nitrobenzamide | 4.85 mmol, 961 mg | FC=1C=C(C(=O)NC)C=C(C1)[N+](=O)[O-] | C8H7FN2O3
catalyst | Pd/C | 0.485 mmol, 43 mg | [Pd] | Pd
solvent | EtOH | 16 mL | CCO | C2H6O
product | 3-amino-5-fluoro-N-methylbenzamide | 4.91 mmol, 825 mg, 100% | NC=1C=C(C(=O)NC)C=C(C1)F | C8H9FN2O
